*** SPICE deck for cell XOR{lay} from library prova_library4_Nand_lay
*** Created on Fri Nov 13, 2015 15:58:03
*** Last revised on Sat Dec 12, 2015 22:26:13
*** Written on Mon Jun 19, 2017 22:52:42 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** TOP LEVEL CELL: XOR{lay}
Mnmos@0 net@303 net@151#12nmos@0_poly-left AXORB gnd n L=0.7U W=1.75U AS=5.589P AD=3.981P PS=8.4U PD=8.05U
Mnmos@1 AXORB B#3nmos@1_poly-left net@299 gnd n L=0.7U W=1.75U AS=1.531P AD=5.589P PS=3.5U PD=8.4U
Mnmos@2 net@299 A#8nmos@2_poly-left gnd gnd n L=0.7U W=1.75U AS=18.681P AD=1.531P PS=24.85U PD=3.5U
Mnmos@3 gnd net@59#6nmos@3_poly-left net@5 gnd n L=0.7U W=1.75U AS=4.288P AD=18.681P PS=8.4U PD=24.85U
Mnmos@4 net@59 B#8nmos@4_poly-left gnd gnd n L=0.7U W=1.75U AS=18.681P AD=7.044P PS=24.85U PD=10.5U
Mnmos@6 gnd A#6nmos@6_poly-left net@151 gnd n L=0.7U W=1.75U AS=7.35P AD=18.681P PS=10.85U PD=24.85U
Mpmos@0 AXORB net@151#5pmos@0_poly-right net@308 vdd p L=0.7U W=3.5U AS=2.756P AD=5.589P PS=5.075U PD=8.4U
Mpmos@1 net@308 B#0pmos@1_poly-right vdd vdd p L=0.7U W=3.5U AS=21.897P AD=2.756P PS=27.037U PD=5.075U
Mpmos@2 vdd A#0pmos@2_poly-left net@311 vdd p L=0.7U W=3.5U AS=3.369P AD=21.897P PS=5.425U PD=27.037U
Mpmos@3 net@311 net@59#8pmos@3_poly-right AXORB vdd p L=0.7U W=3.5U AS=5.589P AD=3.369P PS=8.4U PD=5.425U
Mpmos@4 net@59 B#6pmos@4_poly-right vdd vdd p L=0.7U W=3.5U AS=21.897P AD=7.044P PS=27.037U PD=10.5U
Mpmos@6 vdd A#3pmos@6_poly-left net@151 vdd p L=0.7U W=3.5U AS=7.35P AD=21.897P PS=10.85U PD=27.037U
** Extracted Parasitic Capacitors ***
C0 AXORB 0 20.546fF
C1 net@59 0 9.172fF
C2 net@151 0 8.163fF
C3 B 0 2.954fF
C4 A 0 2.149fF
C5 net@151#12nmos@0_poly-left 0 0.137fF
C6 B#3nmos@1_poly-left 0 0.271fF
C7 A#8nmos@2_poly-left 0 0.214fF
C8 net@59#6nmos@3_poly-left 0 0.157fF
C9 B#8nmos@4_poly-left 0 0.307fF
C10 A#6nmos@6_poly-left 0 0.214fF
C11 net@151#6pin@113_polysilicon-1 0 0.479fF
C12 B#1pin@115_polysilicon-1 0 0.343fF
C13 B#2pin@116_polysilicon-1 0 0.298fF
C14 net@59#4pin@118_polysilicon-1 0 0.255fF
C15 net@59#5pin@119_polysilicon-1 0 0.275fF
C16 B#5pin@151_polysilicon-1 0 0.327fF
C17 A#1pin@153_polysilicon-1 0 0.588fF
C18 B#7pin@163_polysilicon-1 0 0.895fF
C19 A#2pin@165_polysilicon-1 0 0.351fF
C20 B#10pin@170_polysilicon-1 0 0.366fF
C21 net@59#9pin@174_polysilicon-1 0 0.656fF
C22 net@151#5pmos@0_poly-right 0 0.224fF
C23 B#0pmos@1_poly-right 0 0.212fF
C24 A#0pmos@2_poly-left 0 0.345fF
C25 net@59#8pmos@3_poly-right 0 0.221fF
C26 B#6pmos@4_poly-right 0 0.196fF
C27 A#3pmos@6_poly-left 0 0.345fF
** Extracted Parasitic Resistors ***
R0 net@151#5pmos@0_poly-right net@151#5pmos@0_poly-right##0 9.817
C28 net@151#5pmos@0_poly-right##0 0 0.224fF
R1 net@151#5pmos@0_poly-right##0 net@151#5pmos@0_poly-right##1 9.817
C29 net@151#5pmos@0_poly-right##1 0 0.224fF
R2 net@151#5pmos@0_poly-right##1 net@151#5pmos@0_poly-right##2 9.817
C30 net@151#5pmos@0_poly-right##2 0 0.224fF
R3 net@151#5pmos@0_poly-right##2 net@151#5pmos@0_poly-right##3 9.817
C31 net@151#5pmos@0_poly-right##3 0 0.224fF
R4 net@151#5pmos@0_poly-right##3 net@151#5pmos@0_poly-right##4 9.817
C32 net@151#5pmos@0_poly-right##4 0 0.224fF
R5 net@151#5pmos@0_poly-right##4 net@151#5pmos@0_poly-right##5 9.817
C33 net@151#5pmos@0_poly-right##5 0 0.224fF
R6 net@151#5pmos@0_poly-right##5 net@151#5pmos@0_poly-right##6 9.817
C34 net@151#5pmos@0_poly-right##6 0 0.224fF
R7 net@151#5pmos@0_poly-right##6 net@151#5pmos@0_poly-right##7 9.817
C35 net@151#5pmos@0_poly-right##7 0 0.224fF
R8 net@151#5pmos@0_poly-right##7 net@151#6pin@113_polysilicon-1 9.817
R9 B#0pmos@1_poly-right B#0pmos@1_poly-right##0 9.3
C36 B#0pmos@1_poly-right##0 0 0.212fF
R10 B#0pmos@1_poly-right##0 B#0pmos@1_poly-right##1 9.3
C37 B#0pmos@1_poly-right##1 0 0.212fF
R11 B#0pmos@1_poly-right##1 B#0pmos@1_poly-right##2 9.3
C38 B#0pmos@1_poly-right##2 0 0.212fF
R12 B#0pmos@1_poly-right##2 B#0pmos@1_poly-right##3 9.3
C39 B#0pmos@1_poly-right##3 0 0.212fF
R13 B#0pmos@1_poly-right##3 B#0pmos@1_poly-right##4 9.3
C40 B#0pmos@1_poly-right##4 0 0.212fF
R14 B#0pmos@1_poly-right##4 B#0pmos@1_poly-right##5 9.3
C41 B#0pmos@1_poly-right##5 0 0.212fF
R15 B#0pmos@1_poly-right##5 B#0pmos@1_poly-right##6 9.3
C42 B#0pmos@1_poly-right##6 0 0.212fF
R16 B#0pmos@1_poly-right##6 B#0pmos@1_poly-right##7 9.3
C43 B#0pmos@1_poly-right##7 0 0.212fF
R17 B#0pmos@1_poly-right##7 B#1pin@115_polysilicon-1 9.3
R18 B#1pin@115_polysilicon-1 B#1pin@115_polysilicon-1##0 7.75
C44 B#1pin@115_polysilicon-1##0 0 0.131fF
R19 B#1pin@115_polysilicon-1##0 B#2pin@116_polysilicon-1 7.75
R20 B#2pin@116_polysilicon-1 B#2pin@116_polysilicon-1##0 8.783
C45 B#2pin@116_polysilicon-1##0 0 0.167fF
R21 B#2pin@116_polysilicon-1##0 B#2pin@116_polysilicon-1##1 8.783
C46 B#2pin@116_polysilicon-1##1 0 0.167fF
R22 B#2pin@116_polysilicon-1##1 B#3nmos@1_poly-left 8.783
R23 net@59#4pin@118_polysilicon-1 net@59#4pin@118_polysilicon-1##0 6.975
C47 net@59#4pin@118_polysilicon-1##0 0 0.118fF
R24 net@59#4pin@118_polysilicon-1##0 net@59#5pin@119_polysilicon-1 6.975
R25 net@59#5pin@119_polysilicon-1 net@59#5pin@119_polysilicon-1##0 9.3
C48 net@59#5pin@119_polysilicon-1##0 0 0.157fF
R26 net@59#5pin@119_polysilicon-1##0 net@59#6nmos@3_poly-left 9.3
R27 B#3nmos@1_poly-left B#3nmos@1_poly-left##0 6.2
C49 B#3nmos@1_poly-left##0 0 0.105fF
R28 B#3nmos@1_poly-left##0 B#5pin@151_polysilicon-1 6.2
R29 A#0pmos@2_poly-left A#0pmos@2_poly-left##0 7.75
C50 A#0pmos@2_poly-left##0 0 0.131fF
R30 A#0pmos@2_poly-left##0 A#1pin@153_polysilicon-1 7.75
R31 B#6pmos@4_poly-right B#6pmos@4_poly-right##0 9.042
C51 B#6pmos@4_poly-right##0 0 0.196fF
R32 B#6pmos@4_poly-right##0 B#6pmos@4_poly-right##1 9.042
C52 B#6pmos@4_poly-right##1 0 0.196fF
R33 B#6pmos@4_poly-right##1 B#6pmos@4_poly-right##2 9.042
C53 B#6pmos@4_poly-right##2 0 0.196fF
R34 B#6pmos@4_poly-right##2 B#6pmos@4_poly-right##3 9.042
C54 B#6pmos@4_poly-right##3 0 0.196fF
R35 B#6pmos@4_poly-right##3 B#6pmos@4_poly-right##4 9.042
C55 B#6pmos@4_poly-right##4 0 0.196fF
R36 B#6pmos@4_poly-right##4 B#7pin@163_polysilicon-1 9.042
R37 B#7pin@163_polysilicon-1 B#7pin@163_polysilicon-1##0 9.3
C56 B#7pin@163_polysilicon-1##0 0 0.202fF
R38 B#7pin@163_polysilicon-1##0 B#7pin@163_polysilicon-1##1 9.3
C57 B#7pin@163_polysilicon-1##1 0 0.202fF
R39 B#7pin@163_polysilicon-1##1 B#7pin@163_polysilicon-1##2 9.3
C58 B#7pin@163_polysilicon-1##2 0 0.202fF
R40 B#7pin@163_polysilicon-1##2 B#7pin@163_polysilicon-1##3 9.3
C59 B#7pin@163_polysilicon-1##3 0 0.202fF
R41 B#7pin@163_polysilicon-1##3 B#7pin@163_polysilicon-1##4 9.3
C60 B#7pin@163_polysilicon-1##4 0 0.202fF
R42 B#7pin@163_polysilicon-1##4 B#8nmos@4_poly-left 9.3
R43 B B#7pin@163_polysilicon-1 9.3
R44 A#1pin@153_polysilicon-1 A#1pin@153_polysilicon-1##0 9.3
C61 A#1pin@153_polysilicon-1##0 0 0.22fF
R45 A#1pin@153_polysilicon-1##0 A#1pin@153_polysilicon-1##1 9.3
C62 A#1pin@153_polysilicon-1##1 0 0.22fF
R46 A#1pin@153_polysilicon-1##1 A#1pin@153_polysilicon-1##2 9.3
C63 A#1pin@153_polysilicon-1##2 0 0.22fF
R47 A#1pin@153_polysilicon-1##2 A#1pin@153_polysilicon-1##3 9.3
C64 A#1pin@153_polysilicon-1##3 0 0.22fF
R48 A#1pin@153_polysilicon-1##3 A#1pin@153_polysilicon-1##4 9.3
C65 A#1pin@153_polysilicon-1##4 0 0.22fF
R49 A#1pin@153_polysilicon-1##4 A#1pin@153_polysilicon-1##5 9.3
C66 A#1pin@153_polysilicon-1##5 0 0.22fF
R50 A#1pin@153_polysilicon-1##5 A#1pin@153_polysilicon-1##6 9.3
C67 A#1pin@153_polysilicon-1##6 0 0.22fF
R51 A#1pin@153_polysilicon-1##6 A#1pin@153_polysilicon-1##7 9.3
C68 A#1pin@153_polysilicon-1##7 0 0.22fF
R52 A#1pin@153_polysilicon-1##7 A#1pin@153_polysilicon-1##8 9.3
C69 A#1pin@153_polysilicon-1##8 0 0.22fF
R53 A#1pin@153_polysilicon-1##8 A#1pin@153_polysilicon-1##9 9.3
C70 A#1pin@153_polysilicon-1##9 0 0.22fF
R54 A#1pin@153_polysilicon-1##9 A#1pin@153_polysilicon-1##10 9.3
C71 A#1pin@153_polysilicon-1##10 0 0.22fF
R55 A#1pin@153_polysilicon-1##10 A#1pin@153_polysilicon-1##11 9.3
C72 A#1pin@153_polysilicon-1##11 0 0.22fF
R56 A#1pin@153_polysilicon-1##11 A#1pin@153_polysilicon-1##12 9.3
C73 A#1pin@153_polysilicon-1##12 0 0.22fF
R57 A#1pin@153_polysilicon-1##12 A#2pin@165_polysilicon-1 9.3
R58 A#2pin@165_polysilicon-1 A#2pin@165_polysilicon-1##0 7.75
C74 A#2pin@165_polysilicon-1##0 0 0.131fF
R59 A#2pin@165_polysilicon-1##0 A#3pmos@6_poly-left 7.75
R60 net@151 net@151#6pin@113_polysilicon-1 9.3
R61 B#5pin@151_polysilicon-1 B#5pin@151_polysilicon-1##0 9.411
C75 B#5pin@151_polysilicon-1##0 0 0.222fF
R62 B#5pin@151_polysilicon-1##0 B#5pin@151_polysilicon-1##1 9.411
C76 B#5pin@151_polysilicon-1##1 0 0.222fF
R63 B#5pin@151_polysilicon-1##1 B#5pin@151_polysilicon-1##2 9.411
C77 B#5pin@151_polysilicon-1##2 0 0.222fF
R64 B#5pin@151_polysilicon-1##2 B#5pin@151_polysilicon-1##3 9.411
C78 B#5pin@151_polysilicon-1##3 0 0.222fF
R65 B#5pin@151_polysilicon-1##3 B#5pin@151_polysilicon-1##4 9.411
C79 B#5pin@151_polysilicon-1##4 0 0.222fF
R66 B#5pin@151_polysilicon-1##4 B#5pin@151_polysilicon-1##5 9.411
C80 B#5pin@151_polysilicon-1##5 0 0.222fF
R67 B#5pin@151_polysilicon-1##5 B#5pin@151_polysilicon-1##6 9.411
C81 B#5pin@151_polysilicon-1##6 0 0.222fF
R68 B#5pin@151_polysilicon-1##6 B#5pin@151_polysilicon-1##7 9.411
C82 B#5pin@151_polysilicon-1##7 0 0.222fF
R69 B#5pin@151_polysilicon-1##7 B#5pin@151_polysilicon-1##8 9.411
C83 B#5pin@151_polysilicon-1##8 0 0.222fF
R70 B#5pin@151_polysilicon-1##8 B#5pin@151_polysilicon-1##9 9.411
C84 B#5pin@151_polysilicon-1##9 0 0.222fF
R71 B#5pin@151_polysilicon-1##9 B#5pin@151_polysilicon-1##10 9.411
C85 B#5pin@151_polysilicon-1##10 0 0.222fF
R72 B#5pin@151_polysilicon-1##10 B#5pin@151_polysilicon-1##11 9.411
C86 B#5pin@151_polysilicon-1##11 0 0.222fF
R73 B#5pin@151_polysilicon-1##11 B#5pin@151_polysilicon-1##12 9.411
C87 B#5pin@151_polysilicon-1##12 0 0.222fF
R74 B#5pin@151_polysilicon-1##12 B#10pin@170_polysilicon-1 9.411
R75 B#8nmos@4_poly-left B#8nmos@4_poly-left##0 6.2
C88 B#8nmos@4_poly-left##0 0 0.105fF
R76 B#8nmos@4_poly-left##0 B#10pin@170_polysilicon-1 6.2
R77 net@59#8pmos@3_poly-right net@59#8pmos@3_poly-right##0 9.964
C89 net@59#8pmos@3_poly-right##0 0 0.221fF
R78 net@59#8pmos@3_poly-right##0 net@59#8pmos@3_poly-right##1 9.964
C90 net@59#8pmos@3_poly-right##1 0 0.221fF
R79 net@59#8pmos@3_poly-right##1 net@59#8pmos@3_poly-right##2 9.964
C91 net@59#8pmos@3_poly-right##2 0 0.221fF
R80 net@59#8pmos@3_poly-right##2 net@59#8pmos@3_poly-right##3 9.964
C92 net@59#8pmos@3_poly-right##3 0 0.221fF
R81 net@59#8pmos@3_poly-right##3 net@59#8pmos@3_poly-right##4 9.964
C93 net@59#8pmos@3_poly-right##4 0 0.221fF
R82 net@59#8pmos@3_poly-right##4 net@59#8pmos@3_poly-right##5 9.964
C94 net@59#8pmos@3_poly-right##5 0 0.221fF
R83 net@59#8pmos@3_poly-right##5 net@59#9pin@174_polysilicon-1 9.964
R84 net@59#9pin@174_polysilicon-1 net@59#9pin@174_polysilicon-1##0 7.233
C95 net@59#9pin@174_polysilicon-1##0 0 0.137fF
R85 net@59#9pin@174_polysilicon-1##0 net@59#9pin@174_polysilicon-1##1 7.233
C96 net@59#9pin@174_polysilicon-1##1 0 0.137fF
R86 net@59#9pin@174_polysilicon-1##1 net@59#4pin@118_polysilicon-1 7.233
R87 net@59 net@59#9pin@174_polysilicon-1 5.58
R88 A#3pmos@6_poly-left A#3pmos@6_poly-left##0 9.171
C97 A#3pmos@6_poly-left##0 0 0.214fF
R89 A#3pmos@6_poly-left##0 A#3pmos@6_poly-left##1 9.171
C98 A#3pmos@6_poly-left##1 0 0.214fF
R90 A#3pmos@6_poly-left##1 A#3pmos@6_poly-left##2 9.171
C99 A#3pmos@6_poly-left##2 0 0.214fF
R91 A#3pmos@6_poly-left##2 A#3pmos@6_poly-left##3 9.171
C100 A#3pmos@6_poly-left##3 0 0.214fF
R92 A#3pmos@6_poly-left##3 A#3pmos@6_poly-left##4 9.171
C101 A#3pmos@6_poly-left##4 0 0.214fF
R93 A#3pmos@6_poly-left##4 A#3pmos@6_poly-left##5 9.171
C102 A#3pmos@6_poly-left##5 0 0.214fF
R94 A#3pmos@6_poly-left##5 A#3pmos@6_poly-left##6 9.171
C103 A#3pmos@6_poly-left##6 0 0.214fF
R95 A#3pmos@6_poly-left##6 A#3pmos@6_poly-left##7 9.171
C104 A#3pmos@6_poly-left##7 0 0.214fF
R96 A#3pmos@6_poly-left##7 A#3pmos@6_poly-left##8 9.171
C105 A#3pmos@6_poly-left##8 0 0.214fF
R97 A#3pmos@6_poly-left##8 A#3pmos@6_poly-left##9 9.171
C106 A#3pmos@6_poly-left##9 0 0.214fF
R98 A#3pmos@6_poly-left##9 A#3pmos@6_poly-left##10 9.171
C107 A#3pmos@6_poly-left##10 0 0.214fF
R99 A#3pmos@6_poly-left##10 A#6nmos@6_poly-left 9.171
R100 net@151#6pin@113_polysilicon-1 net@151#6pin@113_polysilicon-1##0 7.233
C108 net@151#6pin@113_polysilicon-1##0 0 0.137fF
R101 net@151#6pin@113_polysilicon-1##0 net@151#6pin@113_polysilicon-1##1 7.233
C109 net@151#6pin@113_polysilicon-1##1 0 0.137fF
R102 net@151#6pin@113_polysilicon-1##1 net@151#12nmos@0_poly-left 7.233
R103 A#0pmos@2_poly-left A#0pmos@2_poly-left##0 9.171
C110 A#0pmos@2_poly-left##0 0 0.214fF
R104 A#0pmos@2_poly-left##0 A#0pmos@2_poly-left##1 9.171
C111 A#0pmos@2_poly-left##1 0 0.214fF
R105 A#0pmos@2_poly-left##1 A#0pmos@2_poly-left##2 9.171
C112 A#0pmos@2_poly-left##2 0 0.214fF
R106 A#0pmos@2_poly-left##2 A#0pmos@2_poly-left##3 9.171
C113 A#0pmos@2_poly-left##3 0 0.214fF
R107 A#0pmos@2_poly-left##3 A#0pmos@2_poly-left##4 9.171
C114 A#0pmos@2_poly-left##4 0 0.214fF
R108 A#0pmos@2_poly-left##4 A#0pmos@2_poly-left##5 9.171
C115 A#0pmos@2_poly-left##5 0 0.214fF
R109 A#0pmos@2_poly-left##5 A#0pmos@2_poly-left##6 9.171
C116 A#0pmos@2_poly-left##6 0 0.214fF
R110 A#0pmos@2_poly-left##6 A#0pmos@2_poly-left##7 9.171
C117 A#0pmos@2_poly-left##7 0 0.214fF
R111 A#0pmos@2_poly-left##7 A#0pmos@2_poly-left##8 9.171
C118 A#0pmos@2_poly-left##8 0 0.214fF
R112 A#0pmos@2_poly-left##8 A#0pmos@2_poly-left##9 9.171
C119 A#0pmos@2_poly-left##9 0 0.214fF
R113 A#0pmos@2_poly-left##9 A#0pmos@2_poly-left##10 9.171
C120 A#0pmos@2_poly-left##10 0 0.214fF
R114 A#0pmos@2_poly-left##10 A#8nmos@2_poly-left 9.171
R115 A#1pin@153_polysilicon-1 A#1pin@153_polysilicon-1##0 9.938
C121 A#1pin@153_polysilicon-1##0 0 0.238fF
R116 A#1pin@153_polysilicon-1##0 A#1pin@153_polysilicon-1##1 9.938
C122 A#1pin@153_polysilicon-1##1 0 0.238fF
R117 A#1pin@153_polysilicon-1##1 A#1pin@153_polysilicon-1##2 9.938
C123 A#1pin@153_polysilicon-1##2 0 0.238fF
R118 A#1pin@153_polysilicon-1##2 A#1pin@153_polysilicon-1##3 9.938
C124 A#1pin@153_polysilicon-1##3 0 0.238fF
R119 A#1pin@153_polysilicon-1##3 A#1pin@153_polysilicon-1##4 9.938
C125 A#1pin@153_polysilicon-1##4 0 0.238fF
R120 A#1pin@153_polysilicon-1##4 A#1pin@153_polysilicon-1##5 9.938
C126 A#1pin@153_polysilicon-1##5 0 0.238fF
R121 A#1pin@153_polysilicon-1##5 A#1pin@153_polysilicon-1##6 9.938
C127 A#1pin@153_polysilicon-1##6 0 0.238fF
R122 A#1pin@153_polysilicon-1##6 A#1pin@153_polysilicon-1##7 9.938
C128 A#1pin@153_polysilicon-1##7 0 0.238fF
R123 A#1pin@153_polysilicon-1##7 A#1pin@153_polysilicon-1##8 9.938
C129 A#1pin@153_polysilicon-1##8 0 0.238fF
R124 A#1pin@153_polysilicon-1##8 A#1pin@153_polysilicon-1##9 9.938
C130 A#1pin@153_polysilicon-1##9 0 0.238fF
R125 A#1pin@153_polysilicon-1##9 A#1pin@153_polysilicon-1##10 9.938
C131 A#1pin@153_polysilicon-1##10 0 0.238fF
R126 A#1pin@153_polysilicon-1##10 A#1pin@153_polysilicon-1##11 9.938
C132 A#1pin@153_polysilicon-1##11 0 0.238fF
R127 A#1pin@153_polysilicon-1##11 A#1pin@153_polysilicon-1##12 9.938
C133 A#1pin@153_polysilicon-1##12 0 0.238fF
R128 A#1pin@153_polysilicon-1##12 A#1pin@153_polysilicon-1##13 9.938
C134 A#1pin@153_polysilicon-1##13 0 0.238fF
R129 A#1pin@153_polysilicon-1##13 A#1pin@153_polysilicon-1##14 9.938
C135 A#1pin@153_polysilicon-1##14 0 0.238fF
R130 A#1pin@153_polysilicon-1##14 A#1pin@153_polysilicon-1##15 9.938
C136 A#1pin@153_polysilicon-1##15 0 0.238fF
R131 A#1pin@153_polysilicon-1##15 A 9.938

* Spice Code nodes in cell cell 'XOR{lay}'
**.incude C:\Electric\MODEL_MOS.txt
**VDD VDD 0 DC 5
**VGND GND 0 DC 0
**VB B 0 DC 0
**VA A 0 DC 0
**.tran 0 40n
.END
